US06730695B2
A) (2S,4R)-1-(Benzyloxycarbonyl)-4-hydroxy-N,N-dimethyl-2-pyrrolidinecarboxamide
A mixture of 15 g of (2S,4R)-1-(benzyloxycarbonyl)-4-hydroxy-2-pyrrolidinecarboxylic acid, 7.64 g of HOBT and 11.65 g of DCC in 250 ml of DCM is stirred for 1 hour at RT. The reaction mixture is cooled on an ice bath, dimethylamine gas is added by sparging for 10 minutes and this mixture is stirred for 3 hours at RT. An insoluble material is filtered off and the filtrate is concentrated under vacuum. The residue is taken up in saturated Na2CO3 solution and extracted with DCM, the organic phase is dried over Na2SO4 and the solvent is evaporated off under vacuum. 13 g of the expected product are obtained in the form of an oil.

reactant | (2S,4R)-1-(benzyloxycarbonyl)-4-hydroxy-2-pyrrolidinecarboxylic acid | 15 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)O | C13H15NO5
reactant | HOBT | 7.64 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 11.65 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | dimethylamine | CNC | C2H7N
solvent | DCM | 250 ml | C(Cl)Cl | CH2Cl2
product | (2S,4R)-1-(Benzyloxycarbonyl)-4-hydroxy-N,N-dimethyl-2-pyrrolidinecarboxamide | 13 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)N(C)C | C15H20N2O4
